US06432949B1
N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]pyridine-4-carboxamide
Using an analogous procedure to that described in Example 21, 2-chloro-N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide was reacted with N-(2-hydroxyethyl)piperazine to give the title compound in 62% yield; NMR Spectrum: (DMSOd6) 2.45 (m, 8H), 3.53 (m, 8H), 3.71 (m, 4H), 4.4 (t, 1H), 7.07 (t, 2H) 7,25 (d, 2H), 7.54 (d, 1H), 7.71 (d, 1H), 8.02 (s, 1H), 8.26 (t, 2H), 10.19 (s, 1H), 10.47 (s, 1H); Mass Spectrum: M+H+ 566.

reactant | 2-chloro-N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide | ClC1=NC=CC(=C1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)Cl | C22H19Cl2N5O3
reactant | N-(2-hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
product | N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]pyridine-4-carboxamide | 62% yield | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(=O)C1=CC(=NC=C1)N1CCN(CC1)CCO | C28H32ClN7O4
